US08629143B2
2-amino-4-(4-methylphenyl)-phthalazin-1(2H)-one
4-(4-methylphenyl)-phthalazin-1(2H)-one was treated with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B to give the title compound. MS (APCI+) M/Z 252 (M+H)+.

reactant | 4-(4-methylphenyl)-phthalazin-1(2H)-one | CC1=CC=C(C=C1)C1=NNC(C2=CC=CC=C12)=O | C15H12N2O
reactant | O-(diphenylphosphoryl)hydroxylamine | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)ON | C12H12NO2P
product | 2-amino-4-(4-methylphenyl)-phthalazin-1(2H)-one | NN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)C)=O | C15H13N3O
